US05077409
p-(Hexadecyloxy)phenol
To a suspension of 28.99 g of 60% sodium hydride in 350 ml of N,N-dimethylformamide, cooled to 0° C. and under argon is added 60 g of hydroquinone in 450 ml of N,N-dimethylformamide with stirring over 40 minutes. After an additional 30 minutes, 450 ml of tetrahydrofuran is added followed by 192 q of 1-iodohexadecane over one hour. The mixture is stirred at room temperature for 3 hours. The reaction mixture is poured into dilute hydrochloric acid and extracted with chloroform. The organic layer is washed with water, dried and evaporated to give the desired product as an oil.

reactant | sodium hydride | 28.99 g | [H-].[Na+]
reactant | hydroquinone | 60 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 1-iodohexadecane | ICCCCCCCCCCCCCCCC | C16H33I
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | p-(Hexadecyloxy)phenol | C(CCCCCCCCCCCCCCC)OC1=CC=C(C=C1)O | C22H38O2
